US06642256B2
Treatment of give 5-(2-chloroethanoyl)-1,3-dihydrobenzimidazol-2-one with sodium azide, following the procedure described in Example 6. Step 4, gave 6-(2-azidoethanoyl)-1,3-dihydrobenzimidazol-2-one (5.75 g, 93%):

reactant | 5-(2-chloroethanoyl)-1,3-dihydrobenzimidazol-2-one | ClCC(=O)C1=CC2=C(NC(N2)=O)C=C1 | C9H7ClN2O2
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
product | 6-(2-azidoethanoyl)-1,3-dihydrobenzimidazol-2-one | 5.75 g, 93% | N(=[N+]=[N-])CC(=O)C=1C=CC2=C(NC(N2)=O)C1 | C9H7N5O2
